US07655664B2
(5S)-5-({[6-(2-Cyclopropylpyrimidin-5-yl)-3,4-dihydroisoquinolin-2(1H)-yl]sulfonyl}methyl)-5-methylimidazolidine-2,4-dione
[(4S)-4-Methyl-2,5-dioxoimidazolidin-4-yl]methanesulfonyl chloride (0.020 g, 0.087 mmol) in anhydrous THF (0.40 mL) was added dropwise to a stirred solution of 6-[2-(cyclopropyl)pyrimidin-5-yl]-1,2,3,4-tetrahydroisoquinoline (0.023 g, 0.091 mmol), DIPEA (0.022 mL, 0.13 mmol) and dry THF (0.50 mL) at RT. After the addition was complete, the solution was stirred at RT for 2 h and then taken up in water-brine and extracted twice with EtOAc. The combined organic phases were washed with brine, dried, filtered and concentrated to give a crude product. Purification by preparative HPLC afforded 0.021 g (50%) of the title compound as a white solid.

reactant | [(4S)-4-Methyl-2,5-dioxoimidazolidin-4-yl]methanesulfonyl chloride | 0.087 mmol, 0.020 g | C[C@@]1(NC(NC1=O)=O)CS(=O)(=O)Cl | C5H7ClN2O4S
reactant | 6-[2-(cyclopropyl)pyrimidin-5-yl]-1,2,3,4-tetrahydroisoquinoline | 0.091 mmol, 0.023 g | C1(CC1)C1=NC=C(C=N1)C=1C=C2CCNCC2=CC1 | C16H17N3
reactant | DIPEA | 0.13 mmol, 0.022 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 0.40 mL | C1CCOC1 | C4H8O
solvent | water brine | O.[Cl-].[Na+].O
solvent | THF | 0.50 mL | C1CCOC1 | C4H8O
product | (5S)-5-({[6-(2-Cyclopropylpyrimidin-5-yl)-3,4-dihydroisoquinolin-2(1H)-yl]sulfonyl}methyl)-5-methylimidazolidine-2,4-dione | 0.021 g, 50% | C1(CC1)C1=NC=C(C=N1)C=1C=C2CCN(CC2=CC1)S(=O)(=O)C[C@@]1(C(NC(N1)=O)=O)C | C21H23N5O4S
